US07427632B2
3-Chloro-N-[1-(2-chlorophenyl)-2-[1-(2-fluoroethyl)-piperidin-4-ylmethoxy]ethyl]-1H-indole-6-carboxamide
To a solution of 3-chloro-N-[1-(2-chlorophenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (600 mg, 1.3 mmol) in 6 mL of DMSO was added potassium carbonate (716 mg, 5.2 mmol) and 2-bromo-1-fluoroethane (0.10 mL, 1.1 mmol). The reaction was allowed to stir at room temperature overnight after which time water was added and the resulting precipitate was isolated by filtration. Purification of the filtrate (SiO2: EtOAc) provided 178 mg (28%) of the title compound.

reactant | 3-chloro-N-[1-(2-chlorophenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 1.3 mmol, 600 mg | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCNCC1)C1=C(C=CC=C1)Cl | C23H25Cl2N3O2
reactant | potassium carbonate | 5.2 mmol, 716 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1-fluoroethane | 1.1 mmol, 0.10 mL | BrCCF | C2H4BrF
reactant | water | O | H2O
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
product | 3-Chloro-N-[1-(2-chlorophenyl)-2-[1-(2-fluoroethyl)-piperidin-4-ylmethoxy]ethyl]-1H-indole-6-carboxamide | 178 mg, 28% | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCN(CC1)CCF)C1=C(C=CC=C1)Cl | C25H28Cl2FN3O2
